data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
385,417,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][C-:18]([CH3:19])[CH3:20].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])=[N:17][C:18]2([CH3:19])[CH3:20],water,298.15,9.23433862866958,-34.904822830308625
1382,1519,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([C:20](=[O:21])[O:22][CH3:23])[c:24](=[O:25])[o:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]1([C:20](=[O:21])[O:22][CH3:23])[NH:18][C:17]2([C:15]([O:14][CH3:13])=[O:16])[O:26][C:24]1=[O:25],water,298.15,19.789179079743192,-14.163798030334435
2592,2873,[CH3:14][NH:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[N-:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Cl:8])([Cl:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Cl:8])([Cl:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[N:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:22]([CH3:23])[C:18]2([C:16]([NH:15][CH3:14])=[O:17])[C:19]([CH3:20])=[O:21],water,298.15,24.18916797776797,-32.66397896877368
4392,5015,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]([CH3:13])=[O:14])=[N+:15]([CH3:16])[CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]([CH3:13])=[O:14])[N:15]([CH3:16])[CH:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,36.35541131800598,-11.198688329086083
3897,4457,[CH3:6][N-:7][N+:8]([CH3:9])=[C:10]([C:11](=[O:12])[O:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:11](=[O:12])[O:13][CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:8]([CH3:9])[N:7]1[CH3:6],water,298.15,57.98543075396625,51.87259362503578
3902,4463,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][O-:16])[C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:17](=[O:18])[O:19][CH3:20])[NH:15][O:16]1,water,298.15,29.99694973828869,4.326113397980008
705,766,[CH3:14][NH:15][C:16](=[O:17])[C:18]([CH3:19])=[NH+:20][CH-:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[CH:21]([C:22]#[N:23])[NH:20][C:18]2([C:16]([NH:15][CH3:14])=[O:17])[CH3:19],water,298.15,6.138114752840504,-34.44122086917118
4604,5250,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,31.145640317809573,-13.285173488626606
5138,5833,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH-:15][N+:16]([CH3:17])=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:16]([CH3:17])[CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,27.048251070034983,-18.169358362141715
1124,1222,[CH3:13][C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[CH-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:14]([CH3:13])([C:15]#[N:16])[N:17]([CH3:18])[CH:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,9.871960673926305,-30.93901576615239
853,923,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[O+:20][C-:21]([CH3:22])[CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:18]#[N:19])[O:20][C:21]2([CH3:22])[CH3:23],water,298.15,14.538881505035254,-28.958648431434607
